US07071221B2
Step A: Ethyl 5-{4-[2-(6-benzoyl-2-oxo-1,3-benzothiazol-3(2H)-yl)ethoxy]phenoxy}-2,2-dimethylpentanoate
To a solution, heated at 80° C. for 2 hours, of 6-benzoyl-benzothiazolinone (1 g) in the presence of K2CO3 (1.08 g) in 10 ml of DMF there is added ethyl 5-[4-(2-chloroethoxy)phenoxy]-2,2-dimethylpentanoate (1.41 g). The reaction mixture is heated at 120° C. for 5 days and is then hydrolysed using 100 ml of water. The solution is extracted with ethyl acetate, dried over magnesium sulphate and then evaporated to dryness under reduced pressure. The residue is purified over silica gel, eluant AcOEt/PE 2/8, to yield the title compound in the form of a white powder.

reactant | 6-benzoyl-benzothiazolinone | 1 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=CS2=O)C=C1 | C14H9NO2S
reactant | K2CO3 | 1.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 5-[4-(2-chloroethoxy)phenoxy]-2,2-dimethylpentanoate | 1.41 g | ClCCOC1=CC=C(OCCCC(C(=O)OCC)(C)C)C=C1 | C17H25ClO4
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Ethyl 5-{4-[2-(6-benzoyl-2-oxo-1,3-benzothiazol-3(2H)-yl)ethoxy]phenoxy}-2,2-dimethylpentanoate | C(C1=CC=CC=C1)(=O)C1=CC2=C(N(C(S2)=O)CCOC2=CC=C(OCCCC(C(=O)OCC)(C)C)C=C2)C=C1 | C31H33NO6S
